US04000153
In the manner given in Example 1, 2-chloro-6-bromo-4-phenylquinoline is reacted with hydrazine hydrate at reflux to give 6-bromo-4-phenyl-2-hydrazinoquinoline.

reactant | 2-chloro-6-bromo-4-phenylquinoline | ClC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)Br | C15H9BrClN
reactant | hydrazine hydrate | O.NN
product | 6-bromo-4-phenyl-2-hydrazinoquinoline | BrC=1C=C2C(=CC(=NC2=CC1)NN)C1=CC=CC=C1 | C15H12BrN3
